US08048897B2
(1) Synthesis of 2-Benzylphenol
To a solution of 2-(4-chlorobenzyl)phenol (618.5 mg, 2.83 mmol) in methanol (20 mL), a 20% palladium hydroxide catalyst (240 mg) was added. The mixture was stirred under a hydrogen atmosphere for three days, and then the catalyst was filtered off. The solvent was distilled under reduced pressure and the obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:4)] to obtain the title compound (348.4 mg, 67%).

reactant | 2-(4-chlorobenzyl)phenol | 2.83 mmol, 618.5 mg | ClC1=CC=C(CC2=C(C=CC=C2)O)C=C1 | C13H11ClO
solvent | methanol | 20 mL | CO | CH4O
catalyst | palladium hydroxide | 240 mg | [OH-].[Pd+2].[OH-]
product | 2-Benzylphenol | 348.4 mg, 67% | C(C1=CC=CC=C1)C1=C(C=CC=C1)O | C13H12O
